US09278950B2
Step 2. 3-{[(Benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinoline-2-carboxylic acid
To a mixture of ethyl 3-{[(benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinoline-2-carboxylate (0.065 g, 0.15 mmol) in 1,4-dioxane (2.0 mL) was added 2.5 M aq. NaOH (1.0 mL, 2.5 mmol). The reaction mixture was heated at 80° C. for 0.5 h, then cooled and neutralized with 2.5 mL 1 M HCl to pH=7. The precipitated solid was collected by filtration and air-dried overnight to yield the sub-title compound (0.042 g, 69%). LCMS (ESI) calc. for C22H22N3O5 [M+H]+: m/z=408.2. found: 408.2.

reactant | ethyl 3-{[(benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinoline-2-carboxylate | 0.15 mmol, 0.065 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCOCC1)C(=O)OCC | C24H25N3O5
reactant | NaOH | 2.5 mmol, 2.5 M, 1.0 mL | [OH-].[Na+]
reactant | HCl | 1 M, 2.5 mL | Cl | ClH
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 3-{[(Benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinoline-2-carboxylic acid | 0.042 g, 69% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCOCC1)C(=O)O | C22H21N3O5
